Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hit by trolley 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old ___ speaking only male
with at least a past medical history of DM2, HTN, HLD, R 
sciatica
who presents with prolonged unresponsive episode with possible
eye twitching and subsequently noted to have RLE weakness and
sensory changes. Neurology consulted for etiology of
unresponsiveness.

Unfortunately the events of the episode are quite unclear. Per
EMS report patient was at work and was reporting feeling weak in
the knees with blurry vision and then collapsed and became
"unresponsive" to pain. At scene he spit out OPA and nasal
trumpet was placed. His BG was 216 in the field. 
 He was subsequently brought to the ED where is continued to be
unresponsive to noxious stimuli and not following commands,
intact brainstem reflexes and was noted to have eye lid 
twitching
and possibly rigidity on the left arm. On my arrival patient was
alert and conversing with ED resident with telephone 
interpreter.
Patient's description of events leading up to the 
hospitalization
was quite different. He says he was in his usual state of health
when he was hit with a small trolley cart and fell and hit his
right side. He doesn't remember anything after this event until
he woke up in the hospital. He reports that nothing like this 
has
even happened to him in the past. He has no history of seizures
or strokes. He is currently having back pain and right leg pain.
He feels like his right leg is weak and numb compared to his 
left
leg. He is not having any upper extremity weakness, problems 
with
speaking, saddle anesthesia. He does report double vision
(objects on top of each other) which do not resolve when he
closes one eye. Patient does report episode of right leg 
sciatica
about ___ years ago. SW was involved in the ED to try to obtain
collateral through family, co workers and ___ records. 
However,
patient reported that he did not want his family to know much
about what was going on.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, vertigo,
tinnitus, hearing difficulty, dysarthria, or dysphagia. Denies
bowel or bladder incontinence or retention. Denies difficulty
with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Dm2
HTN
HLD
 
Social History:
___
Family History:
no family history of strokes or seizures   
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: 98.7 °F (37.1 °C)Temporal Artery 86 176/72 MAP: 106.7 95
Room Air

General: Awake, cooperative, calm
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. 
Abdomen: soft, NT/ND, normoactive bowel sounds
Extremities: No ___ edema- some discoloration of lower 
extremities
Skin: scars on lower extremities
MSK: ttp paraspinal lumbar spine, no spinous process ttp

Neurologic:

-Mental Status: Alert, often keeps eyes closed but briskly opens
them at times. Oriented to ___, hospital but says
no one told him which one, can do days of week backward. Quite a
vague historian without much knowledge of his medical problems 
or
medications. Language seems to be fluent without dysarthria (per
interpreter). Does not want to participate in naming, writing. 
No
evidence of neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.  
 V: Reports diminished LT, PP and temp on right half of face
which splits midline. Reports he cannot feel vibration on
forehead at all.
 VII: No facial droop, facial musculature symmetric.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk. rectal tone intact. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
 L  5    ___   ___  3*  5    5  5     5     
 R  5    ___   ___  3*  4*   3* 3*    3*
giveway, pain limited     

-Sensory: reports nearly absent sensation to LT, pin, temp on
entirety of RLE starting at groin in circumferential pattern. No
vibration or proprioception at right foot. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  1  1    1    1   0
 R  1  1    1    1   0
 Plantar response was flexor bilaterally. no clonus.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF..

-Gait: would not walk due to pain

DISCHARGE EXAM:
===============
VS: Temp: 98.0 (Tm 98.3), BP: 100/59 (100-134/59-84), HR: 101
(78-101), RR: 18 (___), O2 sat: 95% (94-99), O2 delivery: Ra  
General: Awake, cooperative, calm
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. 
Abdomen: soft, NT/ND, normoactive bowel sounds
Extremities: No ___ edema- some discoloration of lower 
extremities
Skin: scars on lower extremities

Neurologic:

-Mental Status: Alert, oriented. Language seems to be fluent
without dysarthria (per interpreter). No evidence of neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. 
 VII: No facial droop, facial musculature symmetric.
 XI: ___ strength in trapezii and SCM bilaterally.

-Motor: Normal bulk. No pronator drift bilaterally. No
adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham  TA  Gastroc 
 L  5    ___   ___  5   5    5    5      5     
 R  5    ___   ___  4+* 5-*  4+*  4*     4*
*giveway, pain limited     

-Sensory: reports 70% sensation on right leg compared to the 
left
in non-dermatomal distribution. No spinal level. Limited
proprioception with small/large amplitude movements in the right
toe. Decreased vibration sense on the right compared to left. 

-DTRs: Limited by inability to fully relax 
   Bi Tri ___ Pat Ach
 L  2  2    2    1   0
 R  2  2    2    0   0
 Plantar response was flexor bilaterally. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF.

-Gait: antalgic with right leg held in extension, ambulates 
without assistance, no ataxia or sway

 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:05AM   LACTATE-1.3 K+-4.1
___ 01:00AM URINE  HOURS-RANDOM
___ 01:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:13PM   %HbA1c-8.0* eAG-183*
___ 07:09PM   PO2-32* PCO2-44 PH-7.41 TOTAL CO2-29 BASE 
XS-2
___ 07:09PM   GLUCOSE-174* LACTATE-1.9 NA+-137 K+-4.0 
CL--99
___ 07:09PM   HGB-13.6* calcHCT-41 O2 SAT-60 CARBOXYHB-2 
MET HGB-0
___ 07:09PM   freeCa-1.20
___ 06:55PM   GLUCOSE-185* UREA N-17 CREAT-1.0 SODIUM-138 
POTASSIUM-6.2* CHLORIDE-102 TOTAL CO2-20* ANION GAP-16
___ 06:55PM   estGFR-Using this
___ 06:55PM   ALT(SGPT)-38 AST(SGOT)-46* ALK PHOS-91 TOT 
BILI-0.2
___ 06:55PM   LIPASE-61*
___ 06:55PM   cTropnT-<0.01
___ 06:55PM   ALBUMIN-4.4 CALCIUM-9.5 PHOSPHATE-3.2 
MAGNESIUM-2.0
___ 06:55PM   ___
___ 06:55PM   ASA-NEG ACETMNPHN-NEG tricyclic-NEG
___ 06:55PM   WBC-12.7* RBC-4.79 HGB-13.3* HCT-41.7 MCV-87 
MCH-27.8 MCHC-31.9* RDW-13.2 RDWSD-41.9
___ 06:55PM   ___ PTT-29.0 ___
___ 06:55PM   PLT COUNT-267
___ 06:55PM   ___

DISCHARGE LABS:
===============
___ 04:45AM BLOOD WBC-9.8 RBC-5.44 Hgb-15.5 Hct-47.8 MCV-88 
MCH-28.5 MCHC-32.4 RDW-13.3 RDWSD-42.3 Plt ___
___ 04:45AM BLOOD Glucose-158* UreaN-16 Creat-0.9 Na-143 
K-4.8 Cl-105 HCO3-27 AnGap-11
___ 04:45AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.3

IMAGING:
========
CTA Head/Neck ___. Severe stenosis of a 9 mm segment of the left M1 branch 
resulting in marked attenuation of the left MCA circulation.  
The remaining vessels of the circle of ___ and their 
principal branches are patent. 
2. No stenosis, occlusion, or aneurysm of the major arteries of 
the neck. 

CT Cervical Spine ___

Alignment is normal.  No fractures are identified. There is no 
severe canal or foraminal narrowing.  There is no prevertebral 
edema.  Nasal trumpet partially visualized. The thyroid and 
included lung apices are unremarkable. 
  
IMPRESSION:  
  
No acute fracture or traumatic malalignment. 

MRI Brain with/without contrast ___. No acute intracranial abnormality.  No acute infarction. 
2. Small focus of left parietal subcortical white matter FLAIR 
hyperintensity is nonspecific however could represent sequelae 
of mild chronic white matter microangiopathy. 
3. Two (2) foci of chronic microhemorrhage in the right 
occipital lobe.  
Multiple foci of lobar microhemorrhage can be seen in the 
setting of amyloid angiopathy. 

MRI spine 
1. Mild cervical spondylosis causing mild spinal canal narrowing 
at C4-5 and C5-6 without cord contact or cord signal 
abnormality.  Multilevel degenerative cervical spine neural 
foraminal narrowing is worst (moderate) on the right at C3-4 and 
on the left at C5-6. 
2. Mild lumbar spondylosis is worst at L4-5 and L5-S1.  Spinal 
canal narrowing is worst (mild-to-moderate) at L4-5. Notably, 
there is narrowing of the bilateral L4-5 and right L5-S1 
subarticular zones with contact of the bilateral descending L5 
and right descending S1 nerve roots, respectively, in these 
areas.  Lumbar neural foraminal narrowing is mild bilaterally at 
L4-5 and on the right at L5-S1. 
  
Knee X-Ray
  
No fracture or dislocation is seen.  There is no knee joint 
effusion. There is normal osseous mineralization.  No suspicious 
lytic or sclerotic lesions are identified. 
  
IMPRESSION:  
  
No acute fracture or dislocation.  No joint effusion. 

 
Brief Hospital Course:
PATIENT SUMMARY:
================
This is a ___ year old male with DM2, HTN, and HLD who presents 
with right leg weakness and possible memory loss in the setting 
of traumatic fall.

Exam notable for right leg weakness without clear pattern and 
significant giveway component which is pain limited. His sensory 
loss in the right lower extremity is in a non-dermatomal 
pattern.
Reflexes are diminished in the bilateral lower extremities and 
toes are downgoing. Extensive workup including MRI of the entire 
neuro axis was unrevealing. Most likely etiology of right lower 
extremity is exacerbation of known sciatica. 

The episode of unconsciousness is of unclear etiology. There is 
no history of seizure and no evidence of seizure on EEG. ___ be 
due to concussion in the setting of traumatic fall. Vasovagal 
syncope also possible given that he had associated blurry vision 
with rapid return to baseline mental status. Mental status has 
now returned to previous baseline.

Patient had EEG to evaluate for seizure this was totally normal 
with no epileptiform activity and no seizures. 

TRANSITIONAL ISSUES:
====================
# Patient had CTA this admission which showed: Severe stenosis 
of a 9 mm segment of the left M1 branch resulting in marked 
attenuation of the left MCA circulation. The remaining vessels 
of the circle of ___ and their principal branches are patent. 


# Hgb A1c 8% this admission, consider initiating insulin therapy 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. GlipiZIDE 10 mg PO BID 
6. Januvia (SITagliptin) 100 mg oral DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
3.  GlipiZIDE 10 mg PO BID  
4.  Januvia (SITagliptin) 100 mg oral DAILY  
5.  Lisinopril 10 mg PO DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sciatica 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

You came to the hospital after you were struck by a trolley at 
work. You had weakness in your right leg and may have lost 
consciousness. We think that your sciatica may have been 
worsened by your fall and that your loss of consciousness may 
have been caused by a concussion.

You had an MRI of your brain and spinal cord, which was 
unrevealing.

After leaving the hospital, continue to take all of your 
medications as prescribed and follow up with your primary care 
doctor. Consider getting another injection in your right leg to 
help treat the sciatica. 

We wish you the best!
Your ___ Care Team
 
Followup Instructions:
___